US04324790
A mixture of 11.6 g of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-5-chloro-1H-indole, 120 ml of isobutyl methyl ketone, 15.9 g of sodium carbonate and 22 ml of 3-(3-chloropropyloxy)-tetrahydro-2H-pyran was stirred at 100°-105° C. under an inert atmosphere for 24 hours and was cooled and poured into 500 ml of water. The mixture was stirred for one hour and was extracted with ethyl acetate. The organic phase was washed with water and with aqueous sodium chloride solution, dried and evaporated to dryness. The 29.6 g of crystalline residue were chromatographed over silica gel and eluted with a 6-3-1 chloroform-acetone-triethylamine mixture to obtain 13.1 g of 3-[1-(3-{2-tetrahydropyranyloxy}-propyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole in the form of crystals melting at 161° C.

reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-5-chloro-1H-indole | 11.6 g | N1CCC(=CC1)C1=CNC2=CC=C(C=C12)Cl | C13H13ClN2
reactant | isobutyl methyl ketone | 120 ml | CC(=O)CC(C)C | C6H12O
reactant | sodium carbonate | 15.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(3-chloropropyloxy)-tetrahydro-2H-pyran | 22 ml | ClCCCOC1COCCC1 | C8H15ClO2
solvent | water | 500 ml | O | H2O
product | 3-[1-(3-{2-tetrahydropyranyloxy}-propyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole | 13.1 g | O1C(CCCC1)OCCCN1CCC(=CC1)C1=CNC2=CC=CC=C12 | C21H28N2O2
